US07691879B2
Step B. N-(cyanomethyl)-2-hydroxy-4-methoxy-N-methylbenzamide
To a solution of 2-hydroxy-4-methoxybenzoyl chloride (22.19 g, 118.9 mmol) in 500 CH2Cl2 were added (methylamino)acetonitrile (10 g, 142.7 mmol) and 2,6-lutidine (19.1 g, 178.4 mmol). The reaction was stirred at rt overnight. The reaction mixture was then partitioned between EtOAc and 1(N) aq HCl. Organic layer washed with 1(N) aq HCl (2×), dried over Na2SO4 and concentrated to light yellow viscous material (24.63 g, 94%). This material was used in the next step without further purification.

reactant | 2-hydroxy-4-methoxybenzoyl chloride | 118.9 mmol, 22.19 g | OC1=C(C(=O)Cl)C=CC(=C1)OC | C8H7ClO3
reactant | (methylamino)acetonitrile | 142.7 mmol, 10 g | CNCC#N | C3H6N2
reactant | 2,6-lutidine | 178.4 mmol, 19.1 g | N1=C(C=CC=C1C)C | C7H9N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(cyanomethyl)-2-hydroxy-4-methoxy-N-methylbenzamide | C(#N)CN(C(C1=C(C=C(C=C1)OC)O)=O)C | C11H12N2O3
